US08183260B2
5-(1-methyl-2,6-dioxopiperidin-3-yl)-5H-thieno(3,4-c)pyrrole-4,6-dione
0.264 g of 5-(2,6-dioxopiperidin-3-yl)-5H-thieno(3,4-c)pyrrole-4,6-dione were dissolved in 10 mL anhydrous DMF, and 0.036 g of NaH (95%) were added. The reaction mixture was reacted at room temperature for 30 min, and 0.2 mL of CH3I were added. The reaction mixture was allowed to stir overnight. 100 mL of water were added, and the aqueous phase was extracted with ethyl acetate (3×30 mL). Organic phases were combined, washed with 30 mL of water and 30 mL of brine, dried over anhydrous MgSO4, filtered, and evaporated to dryness. A white solid (0.196 g) was obtained. 1H NMR (CDCl3): δ 7.91 (s, 2H), 4.93 (d, 1H, J=3 Hz), 3.22 (s, 3H), 3.04-2.94 (m, 1H), 2.83-2.71 (m, 2H), 2.11 (m, 1H); MS (m/z): 278 (M)+.

reactant | 5-(2,6-dioxopiperidin-3-yl)-5H-thieno(3,4-c)pyrrole-4,6-dione | 0.264 g | O=C1NC(CCC1N1C(C=2C(C1=O)=CSC2)=O)=O | C11H8N2O4S
reactant | NaH | 0.036 g | [H-].[Na+]
reactant | CH3I | 0.2 mL | CI | CH3I
reactant | water | 100 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-(1-methyl-2,6-dioxopiperidin-3-yl)-5H-thieno(3,4-c)pyrrole-4,6-dione | 0.196 g | CN1C(C(CCC1=O)N1C(C=2C(C1=O)=CSC2)=O)=O | C12H10N2O4S
